US08372864B2
1.5 g of methyl[2-(2-bromophenyl)ethyl](2-ethoxyethyl)carbamate are dissolved under an inert atmosphere in 140 cm3 of dichloromethane at a temperature close to 20° C. 1.6 g of 4-dimethylaminopyridine are added to the reaction mixture, which is cooled to a temperature in the vicinity of 0° C. 3.7 cm3 of trifluoromethanesulfonic anhydride in solution in 15 cm3 of dichloromethane are poured in to the reaction mixture over 30 min. The suspension is kept stirring for 1 h at 0° C., then for 48 h at a temperature close to 20° C. 100 cm3 of a saturated aqueous solution of sodium hydrogen carbonate are added to the reaction medium. Stirring is continued for 1 h at a temperature close to 20° C. After decanting, the organic phase is washed with 100 cm3 of a 20% aqueous solution of acetic acid then with 150 cm3 of a saturated aqueous solution of sodium hydrogen carbonate, dried over magnesium sulfate, filtered and concentrated using a rotary evaporator under reduced pressure (5 kPa). The crude product obtained is purified by filtration through a bed of silica of 20 g. The latter is washed with 100 cm3 of ethyl acetate. The filtrate is concentrated using a rotary evaporator under reduced pressure (5 kPa). 0.8 g of 5-bromo-2-(2-hydroxyethyl)-3,4-dihydroisoquinolin-1(2H)-one is obtained in the form of a beige oil.

reactant | methyl[2-(2-bromophenyl)ethyl](2-ethoxyethyl)carbamate | 1.5 g | COC(N(CCOCC)CCC1=C(C=CC=C1)Br)=O | C14H20BrNO3
reactant | trifluoromethanesulfonic anhydride | 3.7 cm3 | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 140 cm3 | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.6 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 15 cm3 | ClCCl | CH2Cl2
product | 5-bromo-2-(2-hydroxyethyl)-3,4-dihydroisoquinolin-1(2H)-one | 0.8 g | BrC1=C2CCN(C(C2=CC=C1)=O)CCO | C11H12BrNO2
